US07393848B2
A quantity of 0.23 g (1 mmole) of 6-Amino-benzoimidazole-1-carboxylic acid tert-butyl ester is treated with 0.27 g (1 mmole) of 6,8-Dibromo-imidazo[1,2-a]pyrazine in acetonitrile with 3 eq. of K2CO3 at reflux for 16 hrs. The reaction mixture is cooled partitioned between ethyl acetate and water, the organic extracts are dried over anhydrous MgSO4 and evaporated in vacuo to afford 6-(6-Bromo-imidazo[1,2-a]pyrazin-8-ylamino)-benzoimidazole-1-carboxylic acid tert-butyl ester. 6-(6-Bromo-imidazo[1,2-a]pyrazin-8-ylamino)-benzoimidazole-1-carboxylic acid tert-butyl ester is treated with an excess of TFA in dichloromethane at room temperature for 2 hrs. The reaction solution is evaporated in vacuo and partitioned between saturated Na2CO3 and ethyl acetate, the organic extracts are dried over anhydrous MgSO4 and evaporated in vacuo to afford (3H-Benzoimidazol-5-yl)-(6-bromo-imidazo[1,2-a]pyrazin-8-yl)-amine.

reactant | 6-(6-Bromo-imidazo[1,2-a]pyrazin-8-ylamino)-benzoimidazole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C=NC2=C1C=C(C=C2)NC=2C=1N(C=C(N2)Br)C=CN1 | C18H17BrN6O2
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | (3H-Benzoimidazol-5-yl)-(6-bromo-imidazo[1,2-a]pyrazin-8-yl)-amine | N1=CNC2=C1C=CC(=C2)NC=2C=1N(C=C(N2)Br)C=CN1 | C13H9BrN6
